US04008272
Third Step -- Preparation of 4-amino-2-methoxy-N-(β-ureidoethyl) aniline
30 g (0.118 mole) of 4-nitro-2-methoxy-N-(β-ureidoethyl) aniline is introduced little by little, while stirring and cooling, sufficiently to avoid any increase in temperature into 300 cm3 of a 3N solution of sodium hydroxide to which 120 g of sodium hydrosulfite has been added and which has been brought to 70° C.

reactant | 4-nitro-2-methoxy-N-(β-ureidoethyl) aniline | 0.118 mole, 30 g | [N+](=O)([O-])C1=CC(=C(NCCNC(=O)N)C=C1)OC | C10H14N4O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydrosulfite | 120 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
product | 4-amino-2-methoxy-N-(β-ureidoethyl) aniline | NC1=CC(=C(NCCNC(=O)N)C=C1)OC | C10H16N4O2
